US09388173B2
Step 2: tert-Butyl cyclopentyl(3-((3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropyl)amino)benzyl)carbamate
To a solution of 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline (170 mg, 0.899 mmol) in EtOH (10 mL) was added tert-butyl 3-aminobenzyl(cyclopentyl)carbamate (313 mg, 1.08 mmol) and the solution heated at 100° C. in a sealed tube overnight. The solvent was then evaporated off and the residue purified by prep-TLC to give 100 mg compound as colorless oil (280 mg, 65%). LCMS (m/z): 480.3 (M+1)

reactant | 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | 0.899 mmol, 170 mg | O1C(C1)CN1CC2=CC=CC=C2CC1 | C12H15NO
reactant | tert-butyl 3-aminobenzyl(cyclopentyl)carbamate | 1.08 mmol, 313 mg | NC=1C=C(CN(C(OC(C)(C)C)=O)C2CCCC2)C=CC1 | C17H26N2O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-Butyl cyclopentyl(3-((3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-hydroxypropyl)amino)benzyl)carbamate | 100 mg, 65% | C1(CCCC1)N(C(OC(C)(C)C)=O)CC1=CC(=CC=C1)NCC(CN1CC2=CC=CC=C2CC1)O | C29H41N3O3
